US04435406
To 4.45 g of 2,2-dimethyl-5H-1,3-dioxolo-(4,5-f)benzimidazole-6-thiol, suspended in 100 ml of alcohol, were added dropwise while stirring 1.63 g of sodium hydroxide in 50 ml of water and, after 30 minutes, there were added 3.4 g of 2-chloromethyl-pyridine hydrochloride. The mixture was left to boil at reflux overnight, then evaporated and the residue was taken up in 500 ml of ethyl acetate. This was washed with 100 ml of 3 N sodium hydroxide, three times with 100 ml of water, dried over sodium sulfate and evaporated in vacuo. The crude product was recrystallized from acetontrile. There were obtained 4.6 g (73.4% of theory) of 2,2-dimethyl-6-[(2-pyridyl-methyl)thio]-5H-1,3-dioxolo(4,5-f)benzimidazole of melting point 210°-211° C.

reactant | 2,2-dimethyl-5H-1,3-dioxolo-(4,5-f)benzimidazole-6-thiol | 4.45 g | CC1(OC=2C(=CC3=C(N=C(N3)S)C2)O1)C | C10H10N2O2S
reactant | sodium hydroxide | 1.63 g | [OH-].[Na+]
reactant | 2-chloromethyl-pyridine hydrochloride | 3.4 g | Cl.ClCC1=NC=CC=C1
solvent | water | 50 ml | O | H2O
product | 2,2-dimethyl-6-[(2-pyridyl-methyl)thio]-5H-1,3-dioxolo(4,5-f)benzimidazole | 4.6 g, 73.4% | CC1(OC=2C(=CC3=C(N=C(N3)SCC3=NC=CC=C3)C2)O1)C | C16H15N3O2S
